US07767651B2
1) Synthesis of (2-bromo-4-hydroxymethylphenyl)methanol
Under a nitrogen stream, to a solution of 2-bromo-terephthalic acid (5.0 g, 20.4 mmol) in THF (50 ml), a THF solution of BH3 (1.09 M, 74.9 ml) was added dropwise at 0° C. and the mixture was stirred at room temperature for 4 hours. After addition of THF-water (1:1) to this solution, the reaction mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and then evaporated under reduced pressure to remove the solvent. The resulting residue was purified by silica gel column chromatography (developing solution=ethyl acetate:n-hexane (1:2)) to give the titled compound (4.1 g, 92%).

reactant | 2-bromo-terephthalic acid | 20.4 mmol, 5.0 g | BrC1=C(C(=O)O)C=CC(=C1)C(=O)O | C8H5BrO4
reactant | THF water | C1CCOC1.O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | (2-bromo-4-hydroxymethylphenyl)methanol | 4.1 g, 92% | BrC1=C(C=CC(=C1)CO)CO | C8H9BrO2
